US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-4-(pyridin-3-yl)benzamido)-4-phenylbenzoate (0.13 g) in methanol (2 mL), dioxane (4 mL), and ethyl acetate (4 mL), 10% palladium-carbon (63 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 90-40% hexane/ethyl acetate] to obtain 0.077 g of tert-butyl 2-(2-hydroxy-4-(pyridin-3-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-4-(pyridin-3-yl)benzamido)-4-phenylbenzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C=1C=NC=CC1 | C36H32N2O4
reactant | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 63 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-4-(pyridin-3-yl)benzamido)-4-phenylbenzoate | 0.077 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C=1C=NC=CC1 | C29H26N2O4
